US08053457B2
(4-Hydroxy-4-phenyl-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Hydroxy-4-phenyl-piperidine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=217.2: AtRet=1.51.

reactant | 4-Hydroxy-4-phenyl-piperidine | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Hydroxy-4-phenyl-piperidin-1-yl)-acetonitrile | OC1(CCN(CC1)CC#N)C1=CC=CC=C1 | C13H16N2O
